US06018056
Preparation of 6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid Chloride
To a slurry of 6-methoxy -2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid (0.0484 g, 0.154 mmol) in methylene chloride (5 ml) is added thionyl chloride (0.025 ml, 0.356 mmol), and a catalytic amount of N,N-dimethylformamide. The reaction is heated to reflux for 2 hours, then cooled and concentrated in vacuo. The residual material is dissolved in toluene (10 ml), and reconcentrated in vacuo. This dissolution/reconcentration procedure is repeated two more times to afford 0.0498 g (97%) of title compound as a solid: mp 135.5-137.9° C. IR (KBr) 2965, 1678, 1610, 1525, 1478, 1253, 815; 1H NMR (CDCl3): δ8.13 (d, 1 H, J=9 Hz), 7.48 (d, 2 H, J=8.7 Hz), 7.27 (d, 1 H, J=2.4 Hz), 7.13 (dd, 1 H, J=9.0, 2.4 Hz), 7.00 (d, 2 H, J=8.7 Hz); 13C NMR (CDCl3): d 163.4, 161.0, 158.2, 139.1, 131.3, 131.2, 129.1, 128.3, 125.1, 124.6, 115.9, 114.2, 104.4, 55.7, 55.5; Exact mass calcd. for C18H16O4S (in situ-derived methyl ester): 328.0769. Found: 328.0760.

reactant | 6-methoxy -2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid | 0.154 mmol, 0.0484 g | COC=1C=CC2=C(SC(=C2C(=O)O)C2=CC=C(C=C2)OC)C1 | C17H14O4S
reactant | thionyl chloride | 0.356 mmol, 0.025 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid Chloride | 0.0498 g, 97% | COC=1C=CC2=C(SC(=C2C(=O)Cl)C2=CC=C(C=C2)OC)C1 | C17H13ClO3S
